US04057647
1 g. of 3-(2'4'-difluoro-4-biphenylyl)-2-butenoic acid methyl ester in 20 ml. of ethanol is hydrogenated on 0.1 g. of 5% Pd-C under 1 atmosphere at 20° until the reaction has ceased. The mixture is filtered and the filtrate is evaporated to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid methyl ester.

reactant | 3-(2'4'-difluoro-4-biphenylyl)-2-butenoic acid methyl ester | COC(C=C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C17H14F2O2
catalyst | Pd-C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid methyl ester | COC(CC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C17H16F2O2
